US09315489B2
Stage 61.1 5-Bromo-N-(4-(trifluoromethoxy)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 59.1 using 5-bromonicotinic acid and 4-(trifluoromethoxy)aniline to afford white crystals. UPLC-MS (Condition 2) tR=1.11 min, 361.1/363 [M+H]+.

reactant | 5-bromonicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 4-(trifluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | 5-Bromo-N-(4-(trifluoromethoxy)phenyl)nicotinamide | BrC=1C=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C1 | C13H8BrF3N2O2
